US07001897B2
To a solution of 3-methanesulfonyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine (515 mg, 1.49 mmol) (obtained as described in Reference Example 69(3)) in dimethylformamide (15 ml) was added potassium thioacetate (1.02 g, 8.95 mmol) at room temperature, and then stirred in an oil bath (90° C.) for 8 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3-acetylthio-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine (238 mg, yield 49%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine | 1.49 mmol, 515 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)CN1C(CCC1=O)=O | C12H15N3O5S2
reactant | potassium thioacetate | 8.95 mmol, 1.02 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine | 238 mg, yield 49% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)CN1C(CCC1=O)=O | C13H15N3O3S2
